US08791119B2
To a solution of 0.35 g (2.75 mmol) of 1,1,1-trifluoro-2-methylpropan-2-ylamine (CAS 812-18-0) in 20 ml of dichloromethane, cooled to −15° C., is added dropwise 1.00 g (4.96 mmol) of 4-nitrophenyl chloroformate (CAS 7693-46-1) dissolved in 15 ml of dichloromethane, while maintaining the temperature at −15° C. 0.48 ml (2.75 mmol) of diisopropylethylamine in 10 ml of dichloromethane is then added, still at −15° C. Stirring is continued at −15° C. for 2 hours, and the temperature of the mixture is then allowed to return to 0° C. over 1 hour. 20 ml of saturated aqueous sodium hydrogen carbonate solution are then added. The organic phase is separated out by settling and dried over sodium sulfate, and the solvent is partially evaporated off under reduced pressure to a volume of about 8 ml. This solution is chromatographed on a column of 40 g of silica gel, eluting with a mixture of 20% cyclohexane in dichloromethane, to give 0.21 g of 4-nitrophenyl 1,1,1-trifluoro-2-methylpropan-2-ylcarbamate in the form of a white solid.

reactant | 1,1,1-trifluoro-2-methylpropan-2-ylamine | 2.75 mmol, 0.35 g | FC(C(C)(C)N)(F)F | C4H8F3N
reactant | 4-nitrophenyl chloroformate | 4.96 mmol, 1.00 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | diisopropylethylamine | 2.75 mmol, 0.48 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium hydrogen carbonate | 20 ml | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-nitrophenyl 1,1,1-trifluoro-2-methylpropan-2-ylcarbamate | 0.21 g | FC(C(C)(C)NC(OC1=CC=C(C=C1)[N+](=O)[O-])=O)(F)F | C11H11F3N2O4
